US04169896
Preparation of N-n-decyl-ethylamine
15.4 g of lithium aluminium hydride were suspended in 300 ml of abs. ether under reflux. 61 g of N-decylacetamide (product of a) were dissolved in 300 ml of ether and the solution was added dropwise in the course of 2 hours to the solution heated to reflux. The heterogeneous mixture was stirred under reflux for 15 hours. Then 32 ml of water were added dropwise at room temperature in the course of 1 hour. After stirring for 30 minutes, the solid was collected by suction filtration and washed repeatedly with ether. The filtrate was evaporated and the residue distilled in a high vacuum. Yield: 35 g of a fraction with a boiling point of 62°-64° C. (0.2 torr).

reactant | lithium aluminium hydride | 15.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-decylacetamide | 61 g | C(CCCCCCCCC)NC(C)=O | C12H25NO
reactant | water | 32 ml | O | H2O
solvent | ether | 300 ml | CCOCC | C4H10O
product | N-n-decyl-ethylamine | C(CCCCCCCCC)NCC | C12H27N
